US06670362B2
N-[6-Chloro-5-(2-methoxyphenoxy)-2-(3-pyridazinyl)-4-pyrimidinyl]-2-(1 -naphthyl) ethanesulfonamide
To a solution of 3-[4,6-dichloro-5-(2-methoxyphenoxy)-2-pyrimidinyl] pyridazine, (0.06 g, 0.7 mmol) in dimethylsulfoxide (4 ml) was added potassium carbonate (0.13 g, 0.94 mmol) immediately followed by 2-(1-naphthyl) ethanesulfonamide (0.044 g, 0.18 mmol). The mixture was stirred vigorously for 72 hours at 90° C. and then quenched with hydrochloric acid solution (2 M, 4 ml). Ice-cold water (5 ml) was added and a white precipitate was observed. The resultant mixture was partitioned between water (10 ml) and dichloromethane (3×10 ml). The combined organic extracts were washed with water (3×10 ml), dried (magnesium sulfate) and concentrated under vacuum, yielding a yellow oil. Trituration with 1 ml of ice cold water, followed by filtration gave the title compound as a white solid (0.088 g), m.p. 191.5° C.

reactant | 3-[4,6-dichloro-5-(2-methoxyphenoxy)-2-pyrimidinyl] pyridazine | 0.7 mmol, 0.06 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C=1N=NC=CC1 | C15H10Cl2N4O2
reactant | potassium carbonate | 0.94 mmol, 0.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-naphthyl) ethanesulfonamide | 0.18 mmol, 0.044 g | C1(=CC=CC2=CC=CC=C12)CCS(=O)(=O)N | C12H13NO2S
solvent | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
product | N-[6-Chloro-5-(2-methoxyphenoxy)-2-(3-pyridazinyl)-4-pyrimidinyl]-2-(1 -naphthyl) ethanesulfonamide | 0.088 g | ClC1=C(C(=NC(=N1)C=1N=NC=CC1)NS(=O)(=O)CCC1=CC=CC2=CC=CC=C12)OC1=C(C=CC=C1)OC | C27H22ClN5O4S
